US06489490B1
At −78° C., 3.24 ml of diisopropylamine were initially charged in 90 ml of THF and admixed with 9.24 ml of a 2.4 N solution of butyllithium in n-hexane. The mixture was stirred at this temperature for ½ h, and a solution of 5.02 g of γ-4-bromophenyl-γ-butyrolactam (for example from Example XI-3) in 20 ml of THF was then added dropwise. The mixture was stirred at −78° C. for a further ½ h, and 5.04 g of di-tert-butyl dicarbonate in 20 ml of THF were then added dropwise, and the mixture was allowed to thaw and stirred at room temperature overnight. The mixture was then hydrolysed using saturated aqueous ammonium chloride solution, acidified with 2N hydrochloric acid and extracted three times with 150 ml of dichloromethane. The extract was dried over magnesium sulphate and concentrated, and the product was then purified by crystallization from dichloromethane/hexane. This gave a total of 7.61 g (97% of theory) of crystalline N-t-butoxycarbonyl-γ-4-bromophenyl-γ-butyrolactam. The crystal fraction of the highest purity (2.34 g) melted at 122-124° C.

reactant | diisopropylamine | 3.24 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | γ-4-bromophenyl-γ-butyrolactam | 5.02 g | BrC1=CC=C(C=C1)C1CCC(=O)N1 | C10H10BrNO
reactant | di-tert-butyl dicarbonate | 5.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-t-butoxycarbonyl-γ-4-bromophenyl-γ-butyrolactam | 7.61 g, 97% | C(C)(C)(C)OC(=O)N1C(CCC1C1=CC=C(C=C1)Br)=O | C15H18BrNO3
